US07173004B2
A stirred slurry of 2-(1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-(isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (5.40 g, 10.9 mmol) was treated with 2N HCl/ether (Aldrich)(250 mL) for 24 h. The reaction mixture was concentrated in vacuo to give 5.3 g (˜100%) of 1-{[4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester, bis hydrochloride as a white solid: LC-MS (Method A, retention time: 2.40 min), MS m/z 396 (M++1).

reactant | 2-(1-ethoxycarbonyl-2-vinyl-cyclopropylcarbamoyl)-4-(isoquinolin-1-yloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.9 mmol, 5.40 g | C(C)(C)(C)OC(=O)N1C(CC(C1)OC1=NC=CC2=CC=CC=C12)C(NC1(C(C1)C=C)C(=O)OCC)=O | C27H33N3O6
reactant | HCl ether | 2N, 250 mL | Cl.CCOCC
product | 1-{[4-(isoquinolin-1-yloxy)-pyrrolidine-2-carbonyl]-amino}-2-vinyl-cyclopropanecarboxylic acid ethyl ester, bis hydrochloride | 5.3 g, ~100% | Cl.Cl.C(C)OC(=O)C1(C(C1)C=C)NC(=O)C1NCC(C1)OC1=NC=CC2=CC=CC=C12 | InChI=1S/C22H25N3O4.2ClH/c1-3-15-12-22(15,21(27)28-4-2)25-19(26)18-11-16(13-24-18)29-20-17-8-6-5-7-14(17)9-10-23-20;;/h3,5-10,15-16,18,24H,1,4,11-13H2,2H3,(H,25,26);2*1H
